US08003749B2
A 1 L reactor was charged under nitrogen with 200.0 g (1.88 mol) of p-xylene and 12.5 g (0.094 mol/0.06 eq) of aluminum chloride, followed by adjusting the inside temperature to 18° C. Then, 327.7 g (1.97 mol/1.06 eq) of hexafluoroacetone was introduced in a temperature range of 18-25° C. After the introduction, stirring was conducted at room temperature for 3 hr. Then, 200 mL of 10% hydrochloric acid was added. The resulting aqueous layer was extracted two times with 50 mL of chloroform. The resulting organic layers were combined together, followed by removing water with anhydrous magnesium sulfate, filtration, concentration, and vacuum distillation, thereby obtaining 451.3 g of 2-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1,4-dimethylbenzene represented by the following formula. Upon this, purity was 92%, and yield was 81%.

reactant | p-xylene | 1.88 mol, 200.0 g | CC=1C=CC(=CC1)C | C8H10
reactant | hexafluoroacetone | 1.97 mol, 327.7 g, 1.06 eq | FC(C(=O)C(F)(F)F)(F)F | C3F6O
catalyst | aluminum chloride | 0.094 mol, 12.5 g, 0.06 eq | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | hydrochloric acid | 200 mL | Cl | ClH
product | 2-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1,4-dimethylbenzene | 451.3 g, yield was 81% | FC(C(C(F)(F)F)(O)C1=C(C=CC(=C1)C)C)(F)F | C11H10F6O
